US06900233B2
5-Dodecyloxy-3-(4-trifluoromethoxy-phenyl)-3H-(1,3,4)-oxadiazol-2-one
0.43 mL of dodecyl chloroformate was cautiously added dropwise to a mixture consisting of 0.84 g of 4-trifluoromethoxyphenylhydrazine, 15 mL of NMP and 2 mL of pyridine while cooling in ice, and the mixture was then stirred for 2 hours while slowly warming to room temperature. After dilution with 50 mL of water, extraction by shaking was carried out with 30 mL of methylene chloride, the organic phase was dried with sodium sulfate and, while stirring and cooling in ice, 5 mL of pyridine and 3 mL of a 20% strength solution of phosgene in toluene were added dropwise. This mixture was allowed to stand overnight at room temperature and was diluted with a further 10 mL of methylene chloride and then washed 3 times with water. After drying over sodium sulfate, the mixture was concentrated in vacuo and the product was purified by column chromatography (silica gel, solvents:methanol:methylene chloride=2:98).

reactant | dodecyl chloroformate | 0.43 mL | ClC(=O)OCCCCCCCCCCCC | C13H25ClO2
reactant | 4-trifluoromethoxyphenylhydrazine | 0.84 g | FC(OC1=CC=C(C=C1)NN)(F)F | C7H7F3N2O
reactant | NMP | 15 mL | CN1CCCC1=O | C5H9NO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5-Dodecyloxy-3-(4-trifluoromethoxy-phenyl)-3H-(1,3,4)-oxadiazol-2-one | C(CCCCCCCCCCC)OC1=NN(C(O1)=O)C1=CC=C(C=C1)OC(F)(F)F | C21H29F3N2O4
